US04913727
65 g (0.94 mol) of 1,2,4-triazole and 71 g (0.63 mol) of potassium tert.-butylate are taken in 160 ml of absolute dimethylformamide under a nitrogen atmosphere and are heated to 80° C. A solution of 70.6 g (0.26 mol) of 1-chloro-2-(1-chlorocyclopropyl)-3-(4-fluorophenyl)-propan-2-ol in 90 ml of absolute dimethylformamide is added dropwise at this temperature, with stirring. The mixture is subsequently stirred at 100° C. for 6 hours and is then concentrated by stripping off the diluent under reduced pressure. The residue is taken up in ethyl acetate, the mixture is washed with water and, after drying over sodium sulphate, the solvent is stripped off under reduced pressure. The product which remains is chromatographed over a silica gel column with chloroform as the mobile phase. 28.2 g (39% of theory) of 1-(4-fluorophenyl)-2-(1-chloro-cyclopropyl)-3-(1,2,4-triazol-1-yl)-propan -2-ol are obtained in this manner in the form of a solid substance of melting point 111° C.

reactant | 1,2,4-triazole | 0.94 mol, 65 g | N1N=CN=C1 | C2H3N3
reactant | 1-chloro-2-(1-chlorocyclopropyl)-3-(4-fluorophenyl)-propan-2-ol | 0.26 mol, 70.6 g | ClCC(CC1=CC=C(C=C1)F)(O)C1(CC1)Cl | C12H13Cl2FO
solvent | dimethylformamide | 160 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 90 ml | CN(C=O)C | C3H7NO
product | 1-(4-fluorophenyl)-2-(1-chloro-cyclopropyl)-3-(1,2,4-triazol-1-yl)-propan -2-ol | 28.2 g, 39% | FC1=CC=C(C=C1)CC(CN1N=CN=C1)(O)C1(CC1)Cl | C14H15ClFN3O
